### PR TITLE
[Merged by Bors] - feat: locally finite finsums of C^n sections are C^n

### PR DESCRIPTION
**Pull request by grunweg**
This may seem redundant in light of #27349, but is not: `finsum`s are more convenient for use with partitions of unity:
when using them for constructing new objects, one takes a convex combination --- which uses a finsum.

Extracted from #28046, which is necessary for the construction of Riemanian metric. As such, part of the path towards geodesics and the Levi-Civita connection.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
@ocfnash You got auto-assigned #26875, which I just took over. Would you like to to review this PR instead? Hopefully, it's all very straightforward.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Geometry/Manifold/VectorBundle/SmoothSection.lean [hunk 1]
```diff
@@ -283,6 +283,41 @@ lemma ContMDiff.sum_section_of_locallyFinite (ht : LocallyFinite fun i ↦ {x :
     ContMDiff I (I.prod 𝓘(𝕜, F)) n (fun x ↦ TotalSpace.mk' F x (∑' i, (t i x))) :=
   fun x ↦ .sum_section_of_locallyFinite ht fun i ↦ ht' i x
 
+-- Future: the next four lemmas can presumably be generalised, but some hypotheses on the supports
+-- of the sections `t i` are necessary.
+lemma ContMDiffWithinAt.finsum_section_of_locallyFinite
+    (ht : LocallyFinite fun i ↦ {x : M | t i x ≠ 0})
+    (ht' : ∀ i, ContMDiffWithinAt I (I.prod 𝓘(𝕜, F)) n (fun x ↦ TotalSpace.mk' F x (t i x)) u x₀) :
+    ContMDiffWithinAt I (I.prod 𝓘(𝕜, F)) n (fun x ↦ TotalSpace.mk' F x (∑ᶠ i, (t i x))) u x₀ := by
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/VectorBundle/SmoothSection.lean]:
```suggestion
    ContMDiffWithinAt I (I.prod 𝓘(𝕜, F)) n (fun x ↦ TotalSpace.mk' F x (∑ᶠ i, t i x)) u x₀ := by
```
Same thing below

File: Mathlib/Geometry/Manifold/VectorBundle/SmoothSection.lean [hunk 2]
```diff
@@ -283,6 +283,41 @@ lemma ContMDiff.sum_section_of_locallyFinite (ht : LocallyFinite fun i ↦ {x :
...
+  apply (ContMDiffWithinAt.sum_section_of_locallyFinite ht ht').congr' (t := Set.univ)
+      (fun y hy ↦ ?_) (by grind) trivial
+  · rw [← tsum_eq_finsum]
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/VectorBundle/SmoothSection.lean]: Since there is a single goal, I don't think the bullet and indentation are necessary.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Geometry/Manifold/VectorBundle/SmoothSection.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorBundle/SmoothSection.lean]: Indeed; that is left over from a previous version of this code.

**Comment by grunweg** [comment]
Thank you for the quick review, Ruben and Sébastien!

**Comment by grunweg** [comment]
CI passes (except for linting, which should be fine):
bors merge
